US07897597B2
2-(7-Benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethylamine (1.88 g, 4.65 mmol) and dichloromethane (50 mL) were combined and cooled to 0° C. Isopropyl isocyanate (0.50 mL, 5.11 mmol) was added and the reaction was stirred for 30 minutes. The cooling bath was removed and the reaction was stirred overnight. The volatiles were removed under reduced pressure to give a brown solid. The solid was purified by flash column chromatography on silica gel (eluting with 6% methanol in dichloromethane) to yield 1.96 g of N-[2-(7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]-N′-isopropylurea as a cream colored solid.

reactant | 2-(7-Benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethylamine | 4.65 mmol, 1.88 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(C)N)COCC | C24H28N4O2
reactant | Isopropyl isocyanate | 5.11 mmol, 0.50 mL | C(C)(C)N=C=O | C4H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[2-(7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]-N′-isopropylurea | 1.96 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(C)NC(=O)NC(C)C)COCC | C28H35N5O3
